US05476846
a) Ethyl trans-4-[(2-aminocyclopentyl]methyl]benzeneacetate
0.5 g (21 mmoles) of sodium is added to a mixture of 2.6 g (21 mmoles) of naphthalene and 20 ml of 1,2-dimethoxyethane, under a flow of nitrogen. After stirring 1 hour at 20° C., a solution of 2 g (5.2 mmoles) of methyl trans-4-[[2-[[(phenyl)sulfonyl]amino]cyclopentyl]methyl]benzeneacetate in 20 ml of 1,2-dimethoxyethane is added dropwise during 1 hour, at room temperature. After stirring 1 hour at 20° C., 40 ml of water are added dropwise, before washing with ethyl acetate. The aqueous phase acidified with diluted HCl is washed with ethyl acetate, before being concentrated to dryness under reduced pressure. The residue is captured by 50 ml of absolute ethanol and the white suspension obtained is saturated at 0° C. with gaseous HCl. After stirring 16 h at 20° C., the reaction mixture is concentrated under reduced pressure, captured with H2O, made basic with NH4OH and extracted with ethyl acetate. This organic phase after washing with H2O saturated with NaCl is dried over Na2SO4, concentrated, to give 0.5 g (yield=39.3%) of a partially crystallized brown oil, which is used without any other purification.

reactant | sodium | 21 mmoles, 0.5 g | [Na] | Na
reactant | naphthalene | 21 mmoles, 2.6 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | methyl trans-4-[[2-[[(phenyl)sulfonyl]amino]cyclopentyl]methyl]benzeneacetate | 5.2 mmoles, 2 g | C1(=CC=CC=C1)S(=O)(=O)N[C@H]1[C@@H](CCC1)CC1=CC=C(C=C1)CC(=O)OC | C21H25NO4S
reactant | HCl | Cl | ClH
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | 40 ml | O | H2O
product | Ethyl trans-4-[(2-aminocyclopentyl]methyl]benzeneacetate | yield=39.3% | N[C@H]1[C@@H](CCC1)CC1=CC=C(C=C1)CC(=O)OCC | C16H23NO2
